US05543406
A solution of 17β-(1-hydroxy-3-methylbutyl)-6-t-butylcarboxy-6-azaandrost-4-en-3-one (160 mg, 0.349 mmol) prepared in part C above, in DMF (10 mL) is treated with pyridinium dichromate (656 mg, 1.74 mmol) at room temperature. After 10 hrs the reaction is poured into water, extracted with ethyl acetate (2×50 mL), the extracts are dried over MgSO4, concentrated and chromatographed on silica gel (40% ethyl acetate/hexanes) to give crude 17β-(1 -oxo-3-methylbutyl)-6-t-butylcarboxy-6-azaandrost-4-en-3-one; yield: 135 mg (85%). A portion of this material (81 mg, 0.18 mmol) is treated with trifluoroacetic acid as described in Example 4 above to give, after recrystallization from diethyl ether/hexanes 17β-(1-oxo-3-methylbutyl)-6-azaandrost-4-en-3-one as a white crystalline solid; yield: 58 mg (92%); m.p. 169°-171° C. Anal. Calcd. for C23H35NO2 ·1/4H2O; C, 76.30; H, 9.88; N, 3.87. Found: C, 76.48; h, 9.93; N, 3.89.

reactant | 17β-(1-hydroxy-3-methylbutyl)-6-t-butylcarboxy-6-azaandrost-4-en-3-one | 0.349 mmol, 160 mg | OC(CC(C)C)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C28H45NO4
reactant | pyridinium dichromate | 1.74 mmol, 656 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 17β-(1 -oxo-3-methylbutyl)-6-t-butylcarboxy-6-azaandrost-4-en-3-one | O=C(CC(C)C)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C28H43NO4
